US05516931
A mixture of decafluorobiphenyl (1.67 g, 5 mmol), propargyl alcohol (0.58 ml), potassium carbonate (7.5 g), and 18-crown-6 (0.1 g) in 30 ml of toluene was stirred under reflux for 8 hours. After cooling to room temperature, 2 g of celite was added and the reaction mixture was filtered. The filtrate was evaporated on a rotavapor to remove most of the solvent and then the product was purified by preparative gas chromatography, giving 0.93 g (48%) of 4-propargyloxynonafluorobiphenyl which was used in the next step.

reactant | decafluorobiphenyl | 5 mmol, 1.67 g | FC1=C(C(=C(C(=C1C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C12F10
reactant | propargyl alcohol | 0.58 ml | C(C#C)O | C3H4O
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-propargyloxynonafluorobiphenyl | 0.93 g, 48% | C(C#C)OC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F | C15H3F9O
